US05280025
(1) Synthesis of 5-chloro-6-(1-chloroethyl)-4-[1-(4-difluoromethoxyphenyl)ethylamino]pyrimidine (Compound 1)
In 50 ml of toluene were dissolved 3.8 g of 1-(4-difluoromethoxyphenyl)ethylamine and 2.3 g of triethylamine, and to the mixture was added 3.5 g of 6-(1-chloroethyl)-4,5-dichloropyrimidine. The mixture was refluxed under heating for 5 hours.

reactant | 1-(4-difluoromethoxyphenyl)ethylamine | 3.8 g | FC(OC1=CC=C(C=C1)C(C)N)F | C9H11F2NO
reactant | triethylamine | 2.3 g | C(C)N(CC)CC | C6H15N
reactant | 6-(1-chloroethyl)-4,5-dichloropyrimidine | 3.5 g | ClC(C)C1=C(C(=NC=N1)Cl)Cl | C6H5Cl3N2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-6-(1-chloroethyl)-4-[1-(4-difluoromethoxyphenyl)ethylamino]pyrimidine | ClC=1C(=NC=NC1C(C)Cl)NC(C)C1=CC=C(C=C1)OC(F)F | C15H15Cl2F2N3O
